US06809108B1
Synthesis of {(3S)-1-(tert-butoxycarbonyl)-3-piperidyl}methanol
To a solution of 5.89 g of (3S)-3-piperidylmethanol in 150 ml of chloroform, another solution of 9.3 g of di-tert-butyl dicarbonate in 50 ml of chloroform was added under cooling with ice, followed by 15 hours' stirring at room temperature. The reaction liquid was distilled off under reduced pressure, diluted with diethyl ether, washed successively with 0.5 N hydrochloric acid, water and saturated brine, and dried over anhydrous magnesium sulfate. Distilling the solvent off under reduced pressure, 8.01 g of the title compound was obtained.

reactant | (3S)-3-piperidylmethanol | 5.89 g | N1C[C@H](CCC1)CO | C6H13NO
reactant | di-tert-butyl dicarbonate | 9.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | {(3S)-1-(tert-butoxycarbonyl)-3-piperidyl}methanol | 8.01 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)CO | C11H21NO3
